US08809363B2
Step 1: (S)-methyl 2-(tert-butoxy)-2-(2-methyl-4-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)acetate
2-(4-(Trifluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (115 g, 0.42 mmol), N-ethyl-N-isopropylpropan-2-amine (120 μL, 0.64 mmol) and water (500 μL) were added to a stirred solution of (S)-methyl 2-(tert-butoxy)-2-(4-iodo-2-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)acetate (100 mg, 0.21 mmol) in dioxane (2 mL) in a reaction tube. The reaction mixture was degassed with argon for 2 minutes, then tetrakis(triphenylphosphine)palladium(0) (25 mg, 21 μmol) was added and the vessel was sealed and heated at 100° C. for 16 hours. The reaction mixture was cooled to room temperature and diluted with ethyl acetate (30 mL) and water (30 mL) and the mixture was passed through a pad of celite. The layers of the filtrate were separated and the organic layer was washed with brine (30 mL), dried (MgSO4) and concentrated in vacuo to yield the crude product as a brown gum. The residue was purified by flash column chromatography eluting with ethyl acetate in heptane (10%) to give the title compound (75 mg, 72%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ=0.96 (s, 9H), 1.85-1.35 (m, 6H), 2.72 (s, 3H), 2.85-2.75 (m, 2H), 3.69 (s, 3H), 4.91 (s, 1H), 7.40 (d, 1H), 7.61 (d, 1H), 7.71 (m, 2H). LCMS (run time=5 minutes, basic): Rt=3.64 minutes; m/z 492.06 [M+H+].

reactant | 2-(4-(Trifluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.42 mmol, 115 g | FC(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(F)F | C13H16BF3O2
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.64 mmol, 120 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (S)-methyl 2-(tert-butoxy)-2-(4-iodo-2-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)acetate | 0.21 mmol, 100 mg | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)SC1=C2CCCC1)I | C19H24INO3S
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 30 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 21 μmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 500 μL | O | H2O
product | (S)-methyl 2-(tert-butoxy)-2-(2-methyl-4-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)acetate | 75 mg, 72% | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=CC=C(C=C1)C(F)(F)F | C26H28F3NO3S
